US05760259
9-(2-Furyl)nonanoic acid
This compound was synthesized from 9-(2-furyl)-8-nonenoic acid (0.89 g, 4 mmol) by a hydrogenation reaction using Pd/BaSO4 (90 mg). Crystallization (petroleum ether) afforded the product (0.84 g, 93%) as white crystals (mp 31°-32° C.); IR: 3450-2500, 1720 cm-1 ; 1H-NMR: 1.30 (m, 8H), 1.63 (m, 4H), 2.35 (t, 2H), 2.60 (t, 2H), 5.95 (s, 1H), 6.27 (s, 1H), 7.28 (s, 1H), 9. 85 (bs, 1H). Anal. Calcd. for C13H20O3 : C, 69.61, H, 8.99%; Found: C, 69.42, H, 9.04%.

reactant | 9-(2-furyl)-8-nonenoic acid | 4 mmol, 0.89 g | O1C(=CC=C1)C=CCCCCCCC(=O)O | C13H18O3
catalyst | Pd BaSO4 | 90 mg | [Pd].[O-]S(=O)(=O)[O-].[Ba+2]
product | 9-(2-Furyl)nonanoic acid | 0.84 g, 93% | O1C(=CC=C1)CCCCCCCCC(=O)O | C13H20O3
